US08217027B2
A microwave vessel was charged with (S)-2-methyl-oxirane (0.46 ml, 7.78 mmol), triethylamine (0.33 ml, 2.36 mmol), phenol (222 mg, 2.36 mmol) and DMF (2.0 ml). The mixture was heated by microwave for 20 minutes at 150° C. The reaction was concentrated and dried under reduced pressure. The crude mixture (approximately 9:1) was dissolved in DMF (3.0 ml) and treated with imidazole (160 mg, 2.36 mmol) and Triisopropylchlorosilane (181 mg, 0.94 mmol) overnight at room temperature under nitrogen. The reaction was concentrated under reduced pressure and the crude product was purified via flash chromatography using 3:2/heptane:Ethyl acetate as eluant. Fractions containing product were combined and concentrated to afford (S)-1-Phenoxy-propan-2-ol (390 mg, 62%) as a clear oil.

reactant | (S)-2-methyl-oxirane | 7.78 mmol, 0.46 ml | C[C@@H]1OC1 | C3H6O
reactant | triethylamine | 2.36 mmol, 0.33 ml | C(C)N(CC)CC | C6H15N
reactant | phenol | 2.36 mmol, 222 mg | C1(=CC=CC=C1)O | C6H6O
reactant | imidazole | 2.36 mmol, 160 mg | N1C=NC=C1 | C3H4N2
reactant | Triisopropylchlorosilane | 0.94 mmol, 181 mg | C(C)(C)[Si](Cl)(C(C)C)C(C)C | C9H21ClSi
solvent | DMF | 2.0 ml | CN(C)C=O | C3H7NO
product | (S)-1-Phenoxy-propan-2-ol | 390 mg, 62% | O(C1=CC=CC=C1)C[C@H](C)O | C9H12O2
